US09359338B2
Step 3: Synthesis of N-[4-[4-[[3-(1-methylazetidin-3-yl)oxy-5-(trifluoromethyl)phenyl]carbamoylamino]phenoxy]-2-pyridyl]cyclopropanecarboxamide
Dissolve N-[4-[4-[[3-(azetidin-3-yloxy)-5-(trifluoromethyl)phenyl]carbamoylamino]-phenoxy]-2-pyridyl]cyclopropanecarboxamide (210 mg, 0.4 mmol) in methanol (10 mL), add 35% aqueous formaldehyde solution (205 mg, 2.39 mmol), sitr for 1.5 hrs. Add Na(CN)BH3 (150 mg, 2.39 mmol) and stir at room temperature for 3 hrs. After reaction, pour the reaction mixture to water (50 mL), adjust pH=7 with saturated NaHCO3 solution, extract with EtOAc (15 mL×3), combine the organic layers, wash with brine (100 mL), dry over anhydrous Na2SO4. Concentrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, DCM:MeOH=20:1) affords the target compound (16 mg, 7%). MS: (M+1): 542.3.

reactant | N-[4-[4-[[3-(azetidin-3-yloxy)-5-(trifluoromethyl)phenyl]carbamoylamino]-phenoxy]-2-pyridyl]cyclopropanecarboxamide | 0.4 mmol, 210 mg | N1CC(C1)OC=1C=C(C=C(C1)C(F)(F)F)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)NC(=O)C2CC2)C=C1 | C26H24F3N5O4
reactant | formaldehyde | 2.39 mmol, 205 mg | C=O | CH2O
reactant | water | 50 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-[4-[4-[[3-(1-methylazetidin-3-yl)oxy-5-(trifluoromethyl)phenyl]carbamoylamino]phenoxy]-2-pyridyl]cyclopropanecarboxamide | 16 mg, 7% | CN1CC(C1)OC=1C=C(C=C(C1)C(F)(F)F)NC(=O)NC1=CC=C(OC2=CC(=NC=C2)NC(=O)C2CC2)C=C1 | C27H26F3N5O4
